US05439925
(a) Allyl 4-aminobenzoate
50 ml of allyl alcohol are introduced into a round-bottomed flask, 750 mg (22 mmol) of sodium are added in small portions and the mixture is stirred until the metal has reacted completely. 30.2 g (0.2 mol) of ethyl 4-aminobenzoate, dissolved in 200 ml of allyl alcohol, are then introduced and the mixture is heated to reflux and distilled until 180 ml of distillate have been obtained. The reaction medium is evaporated, the residue is taken up with water and ethyl ether and the organic phase is separated after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is ground in 200 ml of hexane and filtered off. 29 g (82%) of allyl ester, melting point 48°-50° C., are collected.

reactant | sodium | 22 mmol, 750 mg | [Na] | Na
reactant | ethyl 4-aminobenzoate | 0.2 mol, 30.2 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | allyl alcohol | 200 ml | C(C=C)O | C3H6O
reactant | allyl alcohol | 50 ml | C(C=C)O | C3H6O
solvent | hexane | 200 ml | CCCCCC | C6H14
product | Allyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC=C)C=C1 | C10H11NO2
